US05644053
(a) Benzhydryl (E)-(2S,3S,5R)-3-(2-ethoxycarbonyl-vinyl)-3- methyl-7-oxo-4-thia-1 -aza-bicyclo[3.2.0]heptane-2-carboxylate
500 mg (1.30 mmol) of benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1- aza-bicyclo[3.2.0]heptane-2-carboxylate were dissolved in 20 ml of THF under argon and treated with 500 mg (1.40 mmol) of ethoxycarbonylmethylene-triphenylphosphorane. The yellow solution was stirred at 50° C. for 75 minutes and subsequently concentrated. The residue remaining behind was chromatographed over silica gel (0.040-0.063 mm particle size) with ethyl acetate:hexane (9:16) as the eluent. Yield: 520 mg (88%) of yellow-orange resin; IR (film): 1783, 1747, 1717, 1650 cm-1MS: (M--CONH) 406, (M--CHPh2) 284 1H-NMR (250MHz, CDCl3): δ[ppm]=1.31(t,3H,J=7Hz),1.34(s,3H), 3.13(dd,1H,J=2Hz, 16Hz,6-H), 3.57(dd,1H,J=4Hz, 16Hz,6-H), 4.22(q,2H,J=7Hz), 4.78(s,1H,2-H), 5.30(dd,1H,J=4.2Hz, 5-H), 5.97(d,1H,J=15Hz,=CH), 6.94(s,1H,CHPh2), 7.07(d,1H,J=15Hz,=CH), 7.30-7.38(m,10H,Ph).

reactant | benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1- aza-bicyclo[3.2.0]heptane-2-carboxylate | 1.30 mmol, 500 mg | C(=O)[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H19NO4S
reactant | ethoxycarbonylmethylene-triphenylphosphorane | 1.40 mmol, 500 mg | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Benzhydryl (E)-(2S,3S,5R)-3-(2-ethoxycarbonyl-vinyl)-3- methyl-7-oxo-4-thia-1 -aza-bicyclo[3.2.0]heptane-2-carboxylate | C(C)OC(=O)/C=C/[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H25NO5S
